US05225566
Step 1) Preparation of N-[(3S,4R)-3-Hydroxy-2,2-dimethyl-6-(trifluoromethoxy)-chroman-4-yl]-2-nitrobenzamide
(3S,4R)-4-Amino-2,2-dimethyl-6-(trifluoromethoxy)-chroman-3-ol [prepared by the method of Quagliato et al. Biorg. & Med. Chem. Let. 1991 1, 39; (2.75 g, 10 mmol)] and triethylamine (1.39 mL, 10 mmol) were stirred together in dichloromethane (25 mL) at 0° C. To this solution was added a solution of 2-nitrobenzoylchloride (1.32 mL, 10 mmol) in dichloromethane (10 mL). The ice bath was allowed to gradually warm to 15° C. overnight. The crude benzamide was diluted with dichloromethane (50 mL), washed with water (2×10 mL), dried (MgSO4) and concentrated to afford 2.0 g (47%) of white solid: m.p. 189°-190° C.; 1H NMR (DMSO-d6): δ 9.17 (d, 1H), 8.04 (d, 1H), 7.81 (m, 2H), 7.71 (t, 1H), 7.33 (s, 1H), 7.16 (d, 1H), 6.86 (d, 1H), 5.86 (d, 1H), 4.96 (br t, 1H), 3.64 (dd, 1H), 1.42 (s, 3H), 1.19 (s, 3H).

reactant | (3S,4R)-4-Amino-2,2-dimethyl-6-(trifluoromethoxy)-chroman-3-ol | N[C@H]1[C@@H](C(OC2=CC=C(C=C12)OC(F)(F)F)(C)C)O | C12H14F3NO3
reactant | triethylamine | 10 mmol, 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzoylchloride | 10 mmol, 1.32 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[(3S,4R)-3-Hydroxy-2,2-dimethyl-6-(trifluoromethoxy)-chroman-4-yl]-2-nitrobenzamide | 2.0 g, 47% | O[C@@H]1C(OC2=CC=C(C=C2[C@H]1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)OC(F)(F)F)(C)C | C19H17F3N2O6
